US08937150B2
5-bromo-3-fluorobenzene-1,2-diamine
To a solution of 4-bromo-2-fluoro-6-nitroaniline (0.5 g, 2.1 mmol) in THF (4.6 mL), EtOH (4.6 mL) and H2O (1.5 mL) was added iron powder (0.6 g, 10.6 mmol) and ammonium chloride (0.17 g, 3.2 mmol). The resulting mixture was stirred at 95° C. for 22 hours. The mixture was cooled to room temperature and filtered through diatomaceous earth. The solid was washed with EtOH until no further color came through the filter. The filtrate was concentrated and the residue was dissolved in EtOAc, washed with H2O and brine, dried over Na2SO4, filtered and concentrated to give the title compound (0.43 g, 99%) as a brown, waxy solid.

reactant | 4-bromo-2-fluoro-6-nitroaniline | 2.1 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)[N+](=O)[O-])F | C6H4BrFN2O2
reactant | ammonium chloride | 3.2 mmol, 0.17 g | [Cl-].[NH4+]
solvent | THF | 4.6 mL | C1CCOC1 | C4H8O
solvent | EtOH | 4.6 mL | CCO | C2H6O
solvent | H2O | 1.5 mL | O | H2O
catalyst | iron | 10.6 mmol, 0.6 g | [Fe] | Fe
product | 5-bromo-3-fluorobenzene-1,2-diamine | 0.43 g, 99% | BrC1=CC(=C(C(=C1)N)N)F | C6H6BrFN2
